US06518260B1
4.3. Ethyl 2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]-4-methylpentanoate
To a solution of 1 g (3.13 mmol) of [2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinic acid synthesized in 1.4., 2.2 g (14.10 mmol) of ethyl 4-methyl-2-methylenepentanoate and 0.52 ml of N,O-bis(trimethylsilyl)acetamide in 0.27 ml of acetonitrile is stirred at a temperature in the region of 20° C. for 24 hours. 60 ml of a 1/1 ethyl acetate/water mixture are added. The aqueous phase is extracted with ethyl acetate and the combined organic phases are washed with water, dried over sodium sulphate, filtered and evaporated under vacuum. The product is purified by recrystallization from a mixture of ethyl acetate and hexane. 1.21 g of product are recovered (yield=81.3%).

reactant | [2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinic acid | 3.13 mmol, 1 g | C1(=CC=CC=C1)CC(NC(=O)OCC1=CC=CC=C1)P(O)=O | C16H18NO4P
reactant | ethyl 4-methyl-2-methylenepentanoate | 14.10 mmol, 2.2 g | CC(CC(C(=O)OCC)=C)C | C9H16O2
reactant | N,O-bis(trimethylsilyl)acetamide | 0.52 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | acetonitrile | 0.27 ml | C(C)#N | C2H3N
product | Ethyl 2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]-4-methylpentanoate | yield=81.3% | OP(=O)(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)CC(C(=O)OCC)CC(C)C | C25H34NO6P
